* Brushed DC Motor Simulation (STALLED)
* Compatible with LTSpice and Ngspice
* 50% PWM at 20V
* Stalled means Omega is forced to 0.

.param Vsupply=20
.param Duty=0.5
.param Freq=20k
.param Period={1/Freq}
.param Ton={Period*Duty}

* PWM Input (Voltage Source)
Vpwm 1 0 PULSE(0 {Vsupply} 0 10n 10n {Ton} {Period})

* Motor Electrical Model
* R = 12 Ohm, L = 2 mH
Rarm 1 2 12
Larm 2 3 2m

* Current Sense (Zero volt source)
Vsense 3 4 0

* Back EMF (Voltage Controlled Voltage Source)
* V_bemf = Ke * Omega
* For stalled motor, Omega = 0, so Bemf = 0.
* We keep the structure but force V(omega) to 0.
Ebemf 4 5 VALUE = {0.01 * V(omega) * (1 + 0.1 * sin(3 * V(theta)))}

* Shunt Resistor
Rshunt 5 0 0.1

* Motor Mechanical Model (STALLED)
* We force Omega to 0V.
Vstall omega 0 0

* Rotor Angle
* Omega is 0, so Theta is constant (0).
Vtheta theta 0 0

* Transient Analysis: 1us step, 500us total (10 PWM cycles at 20kHz)
.tran 1u 500us

* Control block for Ngspice (Ignored by LTSpice)
.control
run
set filetype=ascii
write simulation_stalled_result.txt I(Vsense) V(1) V(omega)
.endc

.end
